US05770378
A solution of 6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzo[g]chromen-4-one (4.4 g, 17.2 mmol) in 1:1 EtOAc/methanol (250 ml) containing 10% palladium on carbon (1:1 g, 7% by weight) was stirred at room temperature under an atmosphere of hydrogen (balloon) for 14 h. TLC analysis indicated complete reaction. The mixture was filtered and concentrated to give a yellow oil. The oil was passed through a small column of silica (10% EtOAc in hexane) and concentration to give 6,6,9,9-tetramethyl-2,3,6,7,8,9-hexahydrobenzo[g]chromen-4-one (4.2 g, 16.3 mmol, 95%) as a light yellow solid: 1H NMR (400 MHz, CDCl3) δ 7.85 (s, 1H), 6.86 (s, 1H), 4.46 (t, 2H), 2.75 (t, 2H), 1.65 (s, 4H), 1.25 (s, 12H).

reactant | 6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzo[g]chromen-4-one | 17.2 mmol, 4.4 g | CC1(CCC(C2=C1C=C1C(C=COC1=C2)=O)(C)C)C | C17H20O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | EtOAc methanol | 250 ml | CCOC(=O)C.CO
product | 6,6,9,9-tetramethyl-2,3,6,7,8,9-hexahydrobenzo[g]chromen-4-one | 16.3 mmol, 4.2 g, 95% | CC1(CCC(C2=C1C=C1C(CCOC1=C2)=O)(C)C)C | C17H22O2
